US09024018B2
(E)-4-(2-(3-(Methylsulfonylmethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)vinyl)benzonitrile (MM-003)
Isocyanato(methylsulfonyl)methane (440 mg, 3.25 mmol) was added dropwise in the dark under nitrogen to a stirred suspension of E)-4-(2-(4-diazo-4H-imidazol-5-yl)vinyl)benzonitrile (600 mg, 2.71 mmol) in DMSO (6 mL) and the mixture was stirred overnight. The resulting solution was poured into ice and the precipitate was filtered and washed successively with water, ethyl acetate and diethyl ether. The crude product was dried under vacuum and was absorbed on silica and purified by flash chromatography using DCM:MeCN (90:10) as eluent to give the pure title compound as a bright yellow solid (31 mg, 3% yield). δH (DMSO d6): 8.95 (1H, s), 7.95-7.97 (2H, d, J=8.6), 7.84-7.87 (2H, d, J=8.6), 7.75 (2H, s), 5.76 (2H, s), 3.16 (3H, s).

reactant | Isocyanato(methylsulfonyl)methane | 3.25 mmol, 440 mg | N(=C=O)CS(=O)(=O)C | C3H5NO3S
reactant | 4-(2-(4-diazo-4H-imidazol-5-yl)vinyl)benzonitrile | 2.71 mmol, 600 mg | [N+](=[N-])=C1N=CN=C1C=CC1=CC=C(C#N)C=C1 | C12H7N5
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | (E)-4-(2-(3-(Methylsulfonylmethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)vinyl)benzonitrile | 31 mg, 3% yield | CS(=O)(=O)CN1N=NC=2N(C1=O)C=NC2/C=C/C2=CC=C(C#N)C=C2 | C15H12N6O3S
